US04889869
(b) 2-methylsulphonyl-3-phenylpropionic acid ethyl ester
6.648 g of methylsulphonyl-acetic acid ethyl ester in 20 ml of DMF are added dropwise at -25°, within 25 minutes, to 1.745 g of sodium hydride dispersion (55% in oil) in 40 ml of DMF. The solution is subsequently stirred for 30 minutes at -25°, then 6.84 g of benzyl bromide in 40 ml of DMF are added dropwise. The reaction mixture is then stirred for 1 hour at room temperature, left to stand overnight and concentrated by evaporation. The residue is taken up in ethyl acetate, washed with water, dried, concentrated by evaporation and purified by flash chromatography on 700 g of silica gel 60 (eluant E). 1H-NMR (DMSO-d6): 1.1 ppm (t, 3H); 3.05 (s, 3H), 3.1-3.6 (m, 2H); 3.9-4.3 (m, 3H); 7.25 (m, 5H).

reactant | methylsulphonyl-acetic acid ethyl ester | 6.648 g | C(C)OC(CS(=O)(=O)C)=O | C5H10O4S
reactant | sodium hydride | 1.745 g | [H-].[Na+]
reactant | benzyl bromide | 6.84 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-methylsulphonyl-3-phenylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=CC=C1)S(=O)(=O)C)=O | C12H16O4S
